US06232487B1
a) Carbonic acid butyl ester 3-(4-tert-butyl-phenyl)-2-methyl- propenyl ester
A solution of 40.0 g acetic acid 3-(4-tert-butyl-phenyl)-2- methyl-propenyl ester in 250 ml of THF was cooled to −70° C. A solution of 25.0 g potassium-tert-butoxide in 100 ml of THF was added at −70° C. during 35 min. and the resulting reaction mixture was stirred for 60 min. at the same temperature. 23.3 g butyl-chloroformate was dropped in during 40 min. and the reaction mixture was stirred for another 90 min. at −70° C. Then the reaction mixture was diluted with ether, washed with saturated NaHCO3 and brine. The organic phase was dried, filtered and evaporated to dryness. The residue was thin-layer distilled and purified by chromatography to yield a colorless oil.

reactant | acetic acid 3-(4-tert-butyl-phenyl)-2- methyl-propenyl ester | 40.0 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(C)=O)C | C16H22O2
reactant | potassium-tert-butoxide | 25.0 g | CC(C)([O-])C.[K+]
reactant | butyl-chloroformate | 23.3 g | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Carbonic acid butyl ester 3-(4-tert-butyl-phenyl)-2-methyl- propenyl ester | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(OCCCC)=O)C | C19H28O3
